US07994163B2
N-(5-bromothiazol-2-yl)-cyclopropylmethylamine
Add acetic acid (2 mL, 33.4 mmol) to a mixture of 5-bromo-thiazol-2-ylamine (1 g, 5.6 mmol), sodium triacetoxyborohydride (3.5 g, 16.7 mmol) and cyclopropane carboxaldehyde (820 mg, 11.7 mmol) at room temperature under a nitrogen atmosphere. Stir the resulting solution for 1.5 h at ambient temperature. Dilute the solution with DCM (50 mL) and wash with saturated aqueous NaHCO3 (80 mL). Dry the organic layer over Na2SO4, filter and concentrate in vacuo. Purify the residue by chromatography on silica gel (40 g) eluting with hexane/EtOAc (9:1 to 7:3 gradient) to obtain the title compound (970 mg, 75%). MS (ES+) m/z: 233.1 (M+).

reactant | acetic acid | 33.4 mmol, 2 mL | C(C)(=O)O | C2H4O2
reactant | 5-bromo-thiazol-2-ylamine | 5.6 mmol, 1 g | BrC1=CN=C(S1)N | C3H3BrN2S
reactant | sodium triacetoxyborohydride | 16.7 mmol, 3.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | cyclopropane carboxaldehyde | 11.7 mmol, 820 mg | C1(CC1)C=O | C4H6O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromothiazol-2-yl)-cyclopropylmethylamine | 970 mg, 75% | BrC1=CN=C(S1)NCC1CC1 | C7H9BrN2S
